US06759546B1
2-(3-Hydroxy-1-methyl-propenyl)-4,6-diisopropyl-phenol (Intermediate 12)
To a solution of 6,8-diisopropyl-4-methylchromen-2-one Intermediate 11, 2.6 g, 10.7 mmol) in Et2O (100 mL) at 0° C. was added LiAlH4 portionwise (405 mg, 10.7 mmol). The reaction was stirred at 0° C. for 1 h, quenched by careful addition of ice, and acidified with 1M HCl. The mixture was then extracted with EtOAc. The organic layer was separated, washed successively with H2O, brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (20% EtOAc-hexanes) to yield the title compound as a nearly colorless syrup (1.82 g, 70%).

reactant | 6,8-diisopropyl-4-methylchromen-2-one | C(C)(C)C=1C=C2C(=CC(OC2=C(C1)C(C)C)=O)C | C16H20O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 2-(3-Hydroxy-1-methyl-propenyl)-4,6-diisopropyl-phenol | OCC=C(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)O | C16H24O2
